US09416135B2
To a solution of (R)-(1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methanol (30 mg, 0.093 mmol) in CH2Cl2 (0.5 mL) and iPrOH (0.5 mL) was added ethyl 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylate (36 mg, 0.14 mmol) and DIEA (36 mg, 0.28 mmol). The mixture was stirred at 70° C. overnight. The mixture was concentrated under reduced pressure. Water (5 mL) was added to the mixture and the aqueous layer was extracted with EtOAc (3×10 mL). The combined organic layers were washed with water and brine, dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by preparative TLC to afford (R)-ethyl 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylate (42.0 mg, 83.7% yield) as a white solid. Analytical chiral HPLC: tR=9.927 min in 15 min chromatography, 96.74% ee (Method: OD-H_5_5_40_2.35 ML). LC-MS MS (ESI) m/z 542.1 [M+H]+. 1H NMR (CD3OD 300 MHz): δ 8.96 (s, 1H), 8.12 (s, 1H), 7.85 (s, 1H), 6.12-6.00 (m, 1H), 5.45-5.29 (m, 1H), 5.01 (s, 2H), 4.51-4.47 (m, 1H), 4.33-4.18 (m, 3H), 3.91 (t, J=10.8 Hz, 1H), 3.18 (s, 3H), 2.63-2.47 (m, 1H), 1.35-1.26 (m, 6H), 1.05 (d, J=6.6 Hz, 3H).

reactant | (R)-(1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazin-8-yl)methanol | 0.093 mmol, 30 mg | C(C)(C)[C@@H]1C=2N(CCN1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)CO | C15H21N3O3S
reactant | ethyl 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylate | 0.14 mmol, 36 mg | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)OCC | C8H6ClF3N2O2
reactant | DIEA | 0.28 mmol, 36 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | iPrOH | 0.5 mL | CC(C)O | C3H8O
product | (R)-ethyl 2-(8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazin-2(1H)-yl)-4-(trifluoromethyl)pyrimidine-5-carboxylate | 42.0 mg, 83.7% yield | OCC=1C(=CC2=C(N=C3N2CCN([C@@H]3C(C)C)C3=NC=C(C(=N3)C(F)(F)F)C(=O)OCC)C1)S(=O)(=O)C | C23H26F3N5O5S
